US05236952
A solution of 2.6 g of 4-hydroxy-3-methoxy-5-nitrobenzoic acid in 26 ml of constant-boiling hydrobromic acid is heated under reflux for 2 hours. After cooling the solvent is distilled in a water-jet vacuum. The crystalline residue is recrystallized from 50 ml of water at boiling temperature. There is obtained 3,4-dihydroxy-5-nitrobenzoic acid in the form of yellow crystals of m.p. 224°-226°.

reactant | 4-hydroxy-3-methoxy-5-nitrobenzoic acid | 2.6 g | OC1=C(C=C(C(=O)O)C=C1[N+](=O)[O-])OC | C8H7NO6
solvent | hydrobromic acid | 26 ml | Br | BrH
product | 3,4-dihydroxy-5-nitrobenzoic acid | OC=1C=C(C(=O)O)C=C(C1O)[N+](=O)[O-] | C7H5NO6
